** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/reg_v2.sch
**.subckt reg_v2 VDD CLK VSS Q D
*.iopin VDD
*.iopin VSS
*.ipin CLK
*.ipin D
*.opin Q
x3 net7 CLK CLK_B net2 VDD VSS tg_custom
x9 VDD CLK_B CLK VSS inv
x4 VDD net2 net1 VSS inv
x8 VDD net4 D VSS inv
x11 VDD net3 Q VSS inv
x10 VDD net5 net1 VSS inv
x2 net7 CLK_B CLK net4 VDD VSS tg_custom
x6 net6 CLK_B CLK net3 VDD VSS tg_custom
x7 net6 CLK CLK_B net5 VDD VSS tg_custom
x5 VDD net1 net7 VSS inv
x1 VDD Q net6 VSS inv
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_Cells/tg_custom.sym # of pins=6
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/tg_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_Cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends

.end
